US08349833B2
6-(2-Chlorophenyl)-6-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5yl)-2,2-dimethylhexanoic acid ethyl ester (2.5 g, 7.33 mmol) was added to a solution of ethanol (100 mL) and sodium hydroxide (1.8 g, 43.8 mmol) in water (32 mL). The mixture was heated to reflux for 6.5 hours. The solution was evaporated under reduced pressure and water (100 mL) was added to the residue. The water solution was extracted with ethyl acetate/heptane=1/10 (100 mL). The organic layers were discarded and the aqueous solution was adjusted with 10 N hydrochloric acid solution to pH=6. The product was extracted with dichloromethane (3×100 mL), which was dried over Na2SO4, filtered, and concentrated under reduced pressure to provide 6-(2-chlorophenyl)-6-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5yl)-2,2-dimethylhexanoic acid (1.6 g, 68.7%) as a yellow oil. 6-(2-Chlorophenyl)-6-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5yl)-2,2-dimethylhexanoic acid (3.97 g, 10.2 mmol) was dissolved in 36% HCl (0.95 mL) and water (59 mL). After stirring for 10 minutes, the aqueous solution was extracted with ethyl acetate/heptane (20/80, 110 mL). The organic extract was discarded and the aqueous fraction was freeze-dried to provide 6-(2-chlorophenyl)-6-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5yl)-2,2-dimethylhexanoic acid, hydrochloride salt (Compound Ic hydrochloride, 3.48 g, 79.8% yield, 99.7% purity by HPLC) as a white solid melting at 136-138° C. 1H NMR (Field: 300 MHz, Solvent: CDCl3/TMS) δ (ppm): 7.69 (s, 1H), 7.47-7.38 (m, 3H), 7.21 (d, 1H, J=3.9 Hz), 6.71 (d, 1H, J=3.9 Hz), 4.92 (m, 1H), 4.31-4.15 (m, 2H), 3.15-3.05 (m, 4H), 2.24-2.14 (m, 2H), 1.47-1.36 (m, 2H), 1.08-1.06 (m, 2H), 0.99 (s, 6H). (mixture of rotation isomers in NMR). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 181.10, 137.13, 132.80, 132.77, 132.04, 131.79, 130.48, 129.73, 128.73, 126.62, 126.14, 66.14, 51.52, 42.87, 40.92, 32.04, 25.88, 25.47, 23.45, 22.50. MS (FIA-ESI-TOF): Calculated for C21H26ClNO2S (MH)+: 392.1446; found 392.1453. CHN analysis: Calculated; 58.87 C, 6.35 H, 3.27 N, 16.55 Cl, 7.48 S, found; 57.80 C, 6.44 H, 3.15 N, 16.14 Cl, 7.15 S, Best fit for CHN Data: C21H27Cl2NO2S+0.55 H2O

reactant | 6-(2-Chlorophenyl)-6-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5yl)-2,2-dimethylhexanoic acid ethyl ester | 7.33 mmol, 2.5 g | C(C)OC(C(CCCC(N1CC2=C(CC1)SC=C2)C2=C(C=CC=C2)Cl)(C)C)=O | C23H30ClNO2S
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 43.8 mmol, 1.8 g | [OH-].[Na+]
solvent | water | 32 mL | O | H2O
product | 6-(2-chlorophenyl)-6-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5yl)-2,2-dimethylhexanoic acid | 1.6 g, 68.7% | ClC1=C(C=CC=C1)C(CCCC(C(=O)O)(C)C)N1CC2=C(CC1)SC=C2 | C21H26ClNO2S
